US06903075B1
Step B: N-Benzenesulfonyl-(L)-prolyl-2-amino-2-norbornanecarboxylic acid, methyl ester
To a solution of 2-amino-2-norbornanecarboxylate, methyl ester hydrochloride (400 mg, 2.0 mmol), N-benzenesulfonyl-(L)-proline (510 mg, 2.0 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (306 mg, 2.0 mmol), 1-hydroxbenzotriazole (202 mg, 2.0 mmol) in 4 mL of tetrahydrofuran at 0° C. was added N-methyl morpholine (0.22 mL, 2.0 mmol). After 15 min at 0° C., the reaction mixture was stirred at room temperature for 16 h, and was concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluted with 10:1 methylene chloride/ethyl acetate to give the title compound (478 mg, 59%) as a mixture of diastereomers.

reactant | 2-amino-2-norbornanecarboxylate | NC1(C2CCC(C1)C2)C(=O)[O-]
reactant | N-benzenesulfonyl-(L)-proline | 2.0 mmol, 510 mg | C1(=CC=CC=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C11H13NO4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.0 mmol, 306 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-methyl morpholine | 2.0 mmol, 0.22 mL | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-Benzenesulfonyl-(L)-prolyl-2-amino-2-norbornanecarboxylic acid, methyl ester | 478 mg, 59% | C1(=CC=CC=C1)S(=O)(=O)N1[C@H](C(=O)C23C(CC(CC2)C3)(C(=O)OC)N)CCC1 | C20H26N2O5S
